US07115750B1
N-[3-[(N,N-Dimethylamino)methyl]-1-methylsulfonyl-1,2,3,4-tetrahydro-7-quinolinyl]-4-biphenylylcarboxamide
Methanesulfonyl chloride (0.02 ml) was added to pyridine solution (1 ml) of N-[3-[(N,N-dimethylamino)methyl]-1,2,3,4-tetrahydro-7-quinolinyl]-4-biphenylcarboxamide (80 mg) under ice-cooling, which was stirred at room temperature for 1 hour. Further, methanesulfonyl chloride (0.02 ml) was added to the reaction mixture under ice-cooling, which was stirred at room temperature for 12 hours. 10% aqueous potassium carbonate solution was added to the reaction mixture, and extraction was conducted using ethyl acetate. The organic layer was washed with water and saturated aqueous sodium chloride solution, dried, and then concentrated. The residue was recrystallized using THF-IPE to give the titled compound (64 mg).

reactant | Methanesulfonyl chloride | 0.02 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
reactant | N-[3-[(N,N-dimethylamino)methyl]-1,2,3,4-tetrahydro-7-quinolinyl]-4-biphenylcarboxamide | 80 mg | CN(C)CC1CNC2=CC(=CC=C2C1)NC(=O)C1=CC=C(C=C1)C1=CC=CC=C1 | C25H27N3O
reactant | methanesulfonyl chloride | 0.02 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[3-[(N,N-Dimethylamino)methyl]-1-methylsulfonyl-1,2,3,4-tetrahydro-7-quinolinyl]-4-biphenylylcarboxamide | 64 mg | CN(C)CC1CN(C2=CC(=CC=C2C1)NC(=O)C1=CC=C(C=C1)C1=CC=CC=C1)S(=O)(=O)C | C26H29N3O3S
